US09306110B2
Materials. 1-methyl-2-pyrrolidinone (99.5%, Aldrich), 1-octadecene (90%, Aldrich), acetonitrile (99.9%, Fisher Chemical), BiCl3 (99.999%, Strem), CdO (99.5%, Aldrich), diphenyl ether (99%, Aldrich), methanol (ACS grade, VWR), oleic acid (90%, Aldrich), oleylamine (70% Aldrich), selenium (99.99%, Strem) trioctylphosphine (90%, Aldrich), trioctylphosphine oxide (99%, Strem), toluene (ACS grade, VWR). 1M TOP-Se was prepared by dissolving selenium powder in trioctylphosphine under inert atmosphere; trioctylphosphine oxide (TOPO) was recrystallized from acetonitrile prior to use; di-n-octylphosphinic acid (DOPA) was synthesized according to the procedure reported by Wang et. al.[1], a stock suspension of 2 mM BiCl3 in NMP was prepared in advance.

reactant | 1-octadecene | C=CCCCCCCCCCCCCCCCC | C18H36
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | oleylamine | C(CCCCCCC\C=C/CCCCCCCC)N | C18H37N
reactant | selenium | [Se] | Se
reactant | trioctylphosphine oxide | C(CCCCCCC)P(CCCCCCCC)(CCCCCCCC)=O | C24H51OP
solvent | trioctylphosphine | C(CCCCCCC)P(CCCCCCCC)CCCCCCCC | C24H51P
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
product | di-n-octylphosphinic acid | C(CCCCCCC)P(O)(=O)CCCCCCCC | C16H35O2P
